US07728025B2
(Step 3) Production of 5-fluoro-4-(6-methanesulfonyl-pyridin-3-yloxy)-2-nitro-phenylamine
0.98 g of potassium nitrate was added to a trifluoroacetic acid (35 ml) solution of 3.38 g of tert-butyl (3-fluoro-4-(6-methanesulfonyl-pyridin-3-yloxy)-phenyl)-carbamate obtained in (step 2), the reaction liquid was stirred at room temperature for 1 hour, and then the solvent was evaporated away under reduced pressure. The residue was diluted with ethyl acetate, washed with aqueous saturated sodium bicarbonate and saturated saline in order, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/2) to obtain the entitled compound.

reactant | potassium nitrate | 0.98 g | [N+](=O)([O-])[O-].[K+]
reactant | trifluoroacetic acid | 35 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (3-fluoro-4-(6-methanesulfonyl-pyridin-3-yloxy)-phenyl)-carbamate | 3.38 g | FC=1C=C(C=CC1OC=1C=NC(=CC1)S(=O)(=O)C)NC(OC(C)(C)C)=O | C17H19FN2O5S
product | 5-fluoro-4-(6-methanesulfonyl-pyridin-3-yloxy)-2-nitro-phenylamine | FC=1C(=CC(=C(C1)N)[N+](=O)[O-])OC=1C=NC(=CC1)S(=O)(=O)C | C12H10FN3O5S
